US09193744B2
Potassium iodide (1 M solution in water, 0.365 mL, 0.365 mmol) was added to a solution of (3R,4aS,12bS)-3-ethyl-9-(4-fluorophenyl)-12b-(pyridin-2-ylmethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (13, R1=4-Fluorophenyl, R2=Pyridyin-2-ylmethyl, R3=Ethyl) (0.143 g, 0.305 mmol) and MeCN (3 mL) under air. 2-Hydroperoxy-2-methylpropane (0.717 mL, 5.18 mmol) was added dropwise over about 5 min. The reaction was mixed at rt for about 24 h. The reaction was quenched with sat. aq. sodium sulfite (5 mL) and then a 1:1 solution of sat. aq. NaHCO3/water (5 mL) was added. The solution was extracted with EtOAc (3×5 mL). The combined organics were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel (12 g) using a gradient of 50-86% EtOAc in heptane. Product fractions were combined and concentrated under reduced pressure. The residue was further purified by reverse phase HPLC (Atlantis Prep T3 OBD (Waters), 5 μm particle size 19×100 mm) using a gradient of 0-95% MeCN in aqueous NH4OAc (50 mM). The fractions containing product were combined and concentrated under reduced pressure to remove the organic volatiles. The resulting mixture was frozen then lyophilized to give (3R,4aS,12bS)-3-ethyl-9-(4-fluorophenyl)-3-hydroxy-12b-(pyridin-2-ylmethyl)-1,2,3,4,4a,5,6,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-7(9H)-one (48, R1=4-Fluorophenyl, R2=Pyridin-2-ylmethyl, R3=Ethyl) (0.008 g, 6% yield). LC/MS, method 2, Rt=2.32 min.; MS m/z: 484 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.38 (d, J=4.8 Hz, 1H), 8.30 (d, J=0.9 Hz, 1H), 7.88-7.78 (m, 2H), 7.69 (s, 1H), 7.54 (s, 1H), 7.48-7.41 (m, 2H), 7.35 (td, J=7.6, 1.8 Hz, 1H), 7.10-7.04 (m, 1H), 6.34-6.30 (m, 1H), 3.95 (s, 1H), 3.02-2.86 (m, 3H), 2.74-2.64 (m, 2H), 2.47-2.43 (m, 1H), 2.12-2.03 (m, 1H), 2.02-1.90 (m, 1H), 1.73-1.62 (m, 1H), 1.55-1.46 (m, 2H), 1.39-1.25 (m, 2H), 1.20 (q, J=7.8 Hz, 2H), 0.73 (t, J=7.4 Hz, 3H).

reactant | Potassium iodide | 0.365 mmol, 1 M, 0.365 mL | [I-].[K+]
reactant | (3R,4aS,12bS)-3-ethyl-9-(4-fluorophenyl)-12b-(pyridin-2-ylmethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@]1(CC[C@@]2([C@@H](CCCC=3C2=CC=2C=NN(C2C3)C3=CC=C(C=C3)F)C1)CC1=NC=CC=C1)O | C30H32FN3O
reactant | 2-Hydroperoxy-2-methylpropane | 5.18 mmol, 0.717 mL | O(O)C(C)(C)C | C4H10O2
solvent | MeCN | 3 mL | CC#N | C2H3N
product | (3R,4aS,12bS)-3-ethyl-9-(4-fluorophenyl)-3-hydroxy-12b-(pyridin-2-ylmethyl)-1,2,3,4,4a,5,6,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-7(9H)-one | 6% yield | C(C)[C@]1(CC[C@@]2([C@@H](CCC(C=3C2=CC=2C=NN(C2C3)C3=CC=C(C=C3)F)=O)C1)CC1=NC=CC=C1)O | C30H30FN3O2
